* C:\Users\rashi\eln1-project-2020-rs-team\LTspice\Test-RprCpr.asc
R1 N002 N001 {R}
Rpr 0 N002 1Meg
Cpr N002 0 61.9pF
V2 Vcc 0 {Vbatt/2}
V3 0 Vee {Vbatt/2}
R2 N008 N007 {R}
Rpr1 0 N008 266k
Cpr1 N008 0 2.43nF
V4 N007 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/(2*freq)} {1/freq})
V1 N001 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/(2*freq)} {1/freq})
R3 N014 N013 {R}
Rpr2 0 N014 10k
Cpr2 N014 0 4.79nF
V5 N013 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/(2*freq)} {1/freq})
R4 N020 N019 {R}
Rpr3 0 N020 6.5k
Cpr3 N020 0 8.76nF
V6 N019 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/(2*freq)} {1/freq})
Rpr4 0 N028 750
Cpr4 N028 0 58.8nF
V7 N027 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/(2*freq)} {1/freq})
R5 N028 N027 {R}
R6 N004 N003 {R1}
Rpr5 0 N004 343k
Cpr5 N004 0 148pF
R7 N010 N009 {R1}
Rpr6 0 N010 132k
Cpr6 N010 0 4.91nF
V8 N009 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/(2*freq)} {1/freq})
V9 N003 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/(2*freq)} {1/freq})
R8 N016 N015 {R1}
Rpr7 0 N016 5k
Cpr7 N016 0 9.7nF
V10 N015 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/(2*freq)} {1/freq})
R9 N022 N021 {R1}
Rpr8 0 N022 1.76k
Cpr8 N022 0 176µF
V11 N021 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/(2*freq)} {1/freq})
Rpr9 0 N030 390
Cpr9 N030 0 11.8µF
V12 N029 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/(2*freq)} {1/freq})
R10 N030 N029 {R1}
Rpr10 0 N006 1Meg
Cpr10 N006 0 61.9pF
V13 N005 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/10k} {1/5k})
R11 N006 N005 {R}
Rpr11 0 N012 1Meg
Cpr11 N012 0 61.9pF
V14 N011 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/10k} {1/5k})
R12 N012 N011 {R}
Rpr12 0 N018 1Meg
Cpr12 N018 0 61.9pF
V15 N017 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/10k} {1/5k})
R13 N018 N017 {R}
Rpr13 0 N024 1Meg
Cpr13 N024 0 61.9pF
V16 N023 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/10k} {1/5k})
R14 N024 N023 {R}
Rpr14 0 N026 1Meg
Cpr14 N026 0 61.9pF
V17 N025 0 PULSE({-Vbatt/2} {Vbatt/2} 0 1u 1u {1/10k} {1/5k})
R15 N026 N025 {R}
.params freq=2k Vbatt=0.5 R=10k R1=5k
.tran 0 20m 10m 1u
.backanno
.end
